US05108997
To a mixture of benzhydryl 7β-tert-butoxycarbonylamino-3-chloromethyl-3-cephem-4-carboxylate (15 g) and sodium iodide (4.37 g) in acetone (15 ml) was added 5-formamido-1-methylpyrazole (15 g) at ambient temperature. After being stirred for 40 hours at the same temperature, the mixture was poured into a mixture of water and ethyl acetate. The organic layer was separated and washed with water, aqueous sodium chloride solution, and dried over magnesium sulfate. The solution was evaporated in vacuo to give benzhydryl 7β-tert-butoxycarbonylamino-3-(3-formamido-2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate iodide (20.95 g).

reactant | benzhydryl 7β-tert-butoxycarbonylamino-3-chloromethyl-3-cephem-4-carboxylate | 15 g | C(C)(C)(C)OC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C26H27ClN2O5S
reactant | sodium iodide | 4.37 g | [I-].[Na+]
reactant | 5-formamido-1-methylpyrazole | 15 g | C(=O)NC1=CC=NN1C | C5H7N3O
reactant | water | O | H2O
solvent | acetone | 15 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | benzhydryl 7β-tert-butoxycarbonylamino-3-(3-formamido-2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate iodide | 20.95 g | [I-].C(C)(C)(C)OC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C(=CC2)NC=O)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | InChI=1S/C31H33N5O6S.HI/c1-31(2,3)42-30(40)33-24-27(38)36-25(22(18-43-28(24)36)17-35-16-15-23(32-19-37)34(35)4)29(39)41-26(20-11-7-5-8-12-20)21-13-9-6-10-14-21;/h5-16,19,24,26,28H,17-18H2,1-4H3,(H,33,40);1H/t24-,28-;/m1./s1
